Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
chest pain 
 
Major Surgical or Invasive Procedure:
cardiac catheterization with bare metal stent to proximal LAD

 
History of Present Illness:
___ F admitted ___ for L total hip replacement. EBL 500cc during 
surgery. On the morning of ___, the patient was noted 
to be more hypoxic and lethargic. She was given more IV fluids 
for concern of dehydration.
Later during the day sats were dropping to 80%.  She was placed 
on a non-rebreather face mask.  She was denying any chest pain.  
She had a mild cough, poorly productive.  She had no nausea, no 
vomiting, no clear documentation of aspiration.  She appeared 
pale.  She was sleepy, but easily arousable and cooperative.  
She appeared initially in no acute distress.  Rapid response was 
called and the patient was transferred to the ICU for initial 
concern of congestive heart failure.

On ___ had CXR with perihilar lower lobe opacities and LUL 
opacity with concern of HF vs. multifocal PNA. Patient's 
respiratory status decompensated and repeat CXR showed LUL, LLL, 
RML, RLL opacities more suggestive of aspiration PNA, 
subsequently patient was intubated that night. Patient was 
started on norepinephrine. 

Patient was started on ASA, heparin held given drop in HCT. 2 
units PRBC being given. On Vanco and Zosyn. Scheduled for RP u/s 
to r/o bleed.
.
On arrival to the floor she was intubated and found to be 
hemodynamically stable. Floor EKGs showed ST depression in 
lateral leads and slow R wave progression. At 9pm was 
hypotensive with MAPS to 46 about 1 hour after getting 
metoprolol 12.5. EKG unchanged, started on levophed, backed off 
sedation.
.

 
Past Medical History:
Past Medical History:
1)Type 2 Diabetes  
2)Peripheral vascular disease: s/p left common femoral to 
below-knee popliteal artery bypass with in situ saphenous vein 
and an open transluminal angioplasty of the anterior tibial and 
below knee popliteal arteries in ___.  
3)Hypertension  
4)Hyperlipidemia  
5)Hx of R breast ca s/p lumpectomy  
6)Depression
.
 Home medications:
Metformin 1000mg PO BID  
Lipitor 20mg PO daily  
Prozac 20mg PO daily  
Triamterene 25mg PO daily  
Neurontin 300mg PO TID  
Actonel 35mg PO weekly 
ASA 81mg daily
.
Medications on Transfer 
lisinopril 5mg daily
lopressor 12.5 mg BID
trazadone 50 qhs
depakote 125mg daily
remeron 15mg bedtime
zocor 40mg daily
lasix 40mg IV q12-hours PRN
aricept 5mg daily
prozac 20mg daily
neosynephrine drip 
IV heparin low dose
plavix 300mg x 1
ASA 325
.
Social History:
___
Family History:
Mother with history of CAD  
.  

 
Social History:
___
Family History:
FAMILY HISTORY: Noncontributory.
 
Physical Exam:
PHYSICAL EXAMINATION:
Vs: Tc:  HR:71 BP:91/51 RR:25 SP02: 93%
Alert and oriented to person and place, disoriented to time. 
 No JVP
HR: II/VI SEM heard best at the apex. 
Resp: CTA-B, no wheeze, no rales, 
ext: cool bilateral lower extremities, no edema
no femoral bruit bilaterally. 
-dopplerable pulses bilaterally. 
.  
LABS/STUDIES
Overall EKGs show dynamic T wave changes   
EKG: ___ 4:41 am : nl axis, nl intervals TWI in II, III, 
aVF, V5, V6.TWI in AVF and precordial leads are new.
<0.05 STD in lead II, V3-V5.
___ at 21:18 STD in lead II,V2-V5,? TWI in III. 
___ 19:03: TWI II, III, avF, V1, V5-V6, STD in lead II, 
V2-V5. 

OSH labs: Cr 1.8 from 1.3 on admission to ___. 
WBC 15.3 on ___ from   7.0 on ___
. HCT stable at 32.9 , INR 1.04 
BNP: 265  
.  
2D-ECHOCARDIOGRAM:  ___. The left atrium and right atrium 
are normal in cavity size. Left ventricular wall thickness, 
cavity size, and global systolic function are normal (LVEF>55%). 
Left ventricular wall thicknesses are normal. The left 
ventricular cavity is mildly dilated. There is mild regional 
left ventricular systolic dysfunction with akinesis of the 
inferior and inferolateral walls. [Intrinsic left ventricular 
systolic function is likely more depressed given the severity of 
valvular regurgitation.] Right ventricular chamber size and free 
wall motion are normal. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Moderate to severe (3+) mitral regurgitation is seen. 
Due to the eccentric nature of the regurgitant jet, its severity 
may be significantly underestimated (Coanda effect). The 
tricuspid valve leaflets are mildly thickened. There is moderate 
pulmonary artery systolic hypertension. There is no pericardial 
effusion.

IMPRESSION: Inferior and inferolateral akinesis consistent with 
prior infarction. The posterior leaflet of the mitral valve is 
tethered with consequent assymetric coaptation of the mitral 
leaflets and at least moderate-to-severe mitral regurgitation, 
directed posteriorly. Moderate pulmonary artery systolic 
hypertension. 
. 
Echo ___:
LV systolic function is intact with an estimated LVEF of 60%.  
Chamber sizes are normal.  There is mild MR and trace TR noted.  
PA pressures are normal.  There is no pericardial effusion.  
.
ETT:  ___. For HTN and syncope.
___ with myoview.
In summary this study is inconclusive for myocardial ischemia by 
ST
criteria since patient did not achieve 85% of predicted maximum 
heart rate. Adjunctive myocardial perfusion imaging at the 
workload achieved will be reported separately by radiology.
.  
ASSESSMENT AND PLAN: ___ y/o woman with hx alzheimers transfered 
with dynamic EKG changes/mild troponin leak equivocal for NSTEMI 
with decision for medical management.  
.  
# CORONARIES: Acute CHF at OSH in setting of CP/troponin leak. 
Echo showed tethered MV, overall more consistent with chronic 
MR.
-___ troponin leak. 
serial CE.
-medical management with aspirin, atorvastatin. 
Hold home BB/Ace given hypotension
.  
# PUMP: Tethered mitral valve, may be chronic MR.
___ to have diuresed for afterload reduction but hypotensive 
requiring pressors. No evidence endocarditis, afebrile, small 
white count. Volume overloaded but intravascularly dry. Small 
fluid boluses PRN.
-Continue pressor support for goal MAPS >60.
Repeat CXR in am.
.  
# RHYTHM: Sinus
Continue telemetry 
.  
## Renal Failure: Baseline Cr 1.3. Increased to 1.9. 
Unclear if ATN vs ___ poor forward flow. 
-check urine lytes. 
.  
#Leukocytosis: Afebrile, no evidence infection
? stress response
-check UA/blood cx.   
.  
#Dementia: continue aricept.  
.  
#Diabetes: hold metformin in setting renal failure
RISS/GFS  
.  

FEN: # Low sodium,   
.  
ACCESS: PIV's  
.  
PROPHYLAXIS:  
-DVT ppx with ***  
-Pain management with  
-Bowel regimen with  
.  
CODE: DNR/DNI 
.  
COMM: HCP ___: ___ 
.  
DISPO: CCU for now  
 
Pertinent Results:
___ 11:15PM   TYPE-ART PO2-147* PCO2-34* PH-7.43 TOTAL 
CO2-23 BASE XS-0
___ 11:00PM   POTASSIUM-4.8
___ 11:00PM   CK(CPK)-998*
___ 11:00PM   CK-MB-36* MB INDX-3.6 cTropnT-4.84*
___ 11:00PM   MAGNESIUM-3.2*
___ 11:00PM   HCT-31.0*
___ 09:28PM   LACTATE-1.4
___ 09:28PM   LACTATE-1.4
___ 03:20PM   LACTATE-1.1
___ 03:20PM   O2 SAT-93
___ 02:49PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 02:49PM URINE  BLOOD-SM NITRITE-NEG PROTEIN-25 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 02:49PM URINE  ___ WBC-3 BACTERIA-OCC YEAST-NONE 
EPI-2
___ 02:49PM URINE  GRANULAR-<1 ___ 02:48PM   GLUCOSE-126* UREA N-23* CREAT-0.9 SODIUM-134 
POTASSIUM-3.1* CHLORIDE-102 TOTAL CO2-22 ANION GAP-13
___ 02:48PM   ALT(SGPT)-51* AST(SGOT)-262* CK(CPK)-1414* 
ALK PHOS-51 TOT BILI-0.8
___ 02:48PM   CK-MB-66* MB INDX-4.7 cTropnT-4.99*
___ 02:48PM   CALCIUM-7.3* PHOSPHATE-2.9 MAGNESIUM-1.6
___ 02:48PM   WBC-12.6*# RBC-3.78* HGB-11.4* HCT-32.2* 
MCV-85# MCH-30.2 MCHC-35.4* RDW-14.2
___ 02:48PM   NEUTS-79.7* LYMPHS-15.0* MONOS-4.5 EOS-0.6 
BASOS-0.2

___ 02:48PM   PLT COUNT-188
___ 02:48PM   ___ PTT-33.7 ___
.
___

Improving pulmonary edema. Continued follow up recommended to 
exclude 
left upper lobe pneumonia. 
 Given the history of recent orthopedic procedure, pulmonary fat 
embolism 
should be considered. 
The study and the report were reviewed by the staff radiologist. 

.
The left atrium is mildly dilated. Left ventricular wall 
thicknesses and cavity size are normal. There is moderate 
regional left ventricular systolic dysfunction with severe 
hypokinesis of the distal halves of the anterior septum, 
anterior and inferior walls as well as apex. The remaining 
segments contract normally (LVEF = ___ %). [Intrinsic left 
ventricular systolic function is likely more depressed given the 
severity of valvular regurgitation.] No masses or thrombi are 
seen in the left ventricle. Tissue Doppler imaging suggests an 
increased left ventricular filling pressure (PCWP>18mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets are mildly thickened (?#). No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Moderate (2+) mitral regurgitation is seen. There is 
mild pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

Echo ___
IMPRESSION: Normal left ventricular cavity size with extensive 
regional systolic dysfunction c/w multivessel CAD (mid-LAD and 
PDA distributions). Increased PCWP. Moderate mitral 
regurgitation. Pulmonary artery systolic hypertension.

CLINICAL IMPLICATIONS: 
The left ventricular ejection fraction is <40%, a threshold for 
which the patient may benefit from a beta blocker and an ACE 
inhibotor or ___. 
Based on ___ AHA endocarditis prophylaxis recommendations, the 
echo findings indicate prophylaxis is NOT recommended. Clinical 
decisions regarding the need for prophylaxis should be based on 
clinical and echocardiographic data.  

Cardiac Catheterization: ___

1. Coronary angiography of this right dominant system 
demonstrated 2 
vessel coronary artery disease.  The ___ had a 40% distal 
stenosis. 
The LAD had a 90% proximal stenosis and a 30% mid-vessel 
stenosis.  The 
LCX had a 40% proximal stenosis.  The RCA was occluded 
proximally. 
There was left to right collaterals filling the distal RCA. 
2. Resting hemodynamics revealed elevated right and left sided 
filling 
pressures with a RVEDP of 11 mmHg and a mean PCWP of 25 mmHg.  
There was 
mild pulmonary arterial hypertension with a PA pressure of 41/25 
mmHg. 
Central aortic pressure was 125/55 mmHg.  The cardiac index was 
normal 
at 3.4 L/min/m2. 
3. Successful PTCA and placement of a 2.75x15mm Vision 
bare-metal stent 
were performed in the proximal LAD.  The stent was postdilated 
using a 
3.0mm diameter balloon.  Final angiography showed normal flow, 
no 
apparent dissection, and a 5% residual stenosis.  (See PTCA 
comments.) 
  
FINAL DIAGNOSIS:     
1. Two vessel coronary artery disease. 
2. Biventricular diastolic dysfunction. 
3. Mild pulmonary arterial hypertension. 
4. Placement of a bare-metal stent in the proximal LAD. 
.
___
Echo
The left atrium is mildly dilated. Left ventricular wall 
thicknesses and cavity size are normal. There is moderate 
regional left ventricular systolic dysfunction with severe 
hypokinesis of the distal halves of the anterior septum, 
anterior and inferior walls as well as apex. The remaining 
segments contract normally (LVEF = ___ %). [Intrinsic left 
ventricular systolic function is likely more depressed given the 
severity of valvular regurgitation.] No masses or thrombi are 
seen in the left ventricle. Tissue Doppler imaging suggests an 
increased left ventricular filling pressure (PCWP>18mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets are mildly thickened (?#). No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Moderate (2+) mitral regurgitation is seen. There is 
mild pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

IMPRESSION: Normal left ventricular cavity size with extensive 
regional systolic dysfunction c/w multivessel CAD (mid-LAD and 
PDA distributions). Increased PCWP. Moderate mitral 
regurgitation. Pulmonary artery systolic hypertension.

CLINICAL IMPLICATIONS: 
The left ventricular ejection fraction is <40%, a threshold for 
which the patient may benefit from a beta blocker and an ACE 
inhibotor or ___. 
Based on ___ AHA endocarditis prophylaxis recommendations, the 
echo findings indicate prophylaxis is NOT recommended. Clinical 
decisions regarding the need for prophylaxis should be based on 
clinical and echocardiographic data. 

 
Brief Hospital Course:
ASSESSMENT AND PLAN: ___ y/o woman s/p hip replacement now 
intubated for respiratory distress with ? PNA, noted on echo to 
have acutely worsened MR. 

___ Distress: The patient was intubated and sedated on 
arrival from the outside hospital. Her respiratory distress was 
initially thought secondary to PNA due to a LL opacity, however 
blood cultures were negative and antibiotics were stopped. It 
became evident that her respiratory distress was secondary to 
heart failure that had developed secondary to mitral 
regurgitation which was secondary to ischemia. Had echo prior to 
arrival showing new ___ apical wall motion abnormality which 
would suggest plaque in LAD. Had poor R wave progression and 
LAFSB which would be consistent with anterior ischemia but her 
ST depressions are in V5-V6 more consistent with ischemia 
involving Lcx.Her cardiac cath revealed LAD disease and a bare 
metal stent was placed. She will require plavix and high dose 
aspirin for a month. On Echocardiogram, she had apical akinesis. 
 We therefore are recommending that she remain anticoagulated 
for the next 6 months with coumadin. PTT/INR should be checked 
daily. She should follow up with the ___ clinic following 
discharge from rehab. 
. 
# HCT drop: HCT 32.2 on admission following 2U PRBC at ___. 
Concern at OSH was for RP bleed however no evidence of this 
clinically and HCT trended down slowly from 32 on admit and has 
been stable currently. An active type and screen was 
maintained,she was guaic negative.
.
#s/p Hip replacement: She  had a left hip replacement at an 
outside hospital. Communication with performing surgeon related 
that she was full weight bearing and she was evaluated by ___  
with a recommnedation for rehab. She felt as though her knee 
would buckle thus plain films of the left leg were taken and 
showed changes consistent with osteoarthritis. Her wound from 
her hip surgery should be kept covered at all times.  She is on 
lovenox bridge to coumadin currently and 
She will follow up with her orthopedic surgeon as scheduled 
within two weeks of the procedure.
 
Medications on Admission:
Simvastatin 40 mg p.o. daily,  
atenolol 50 mg p.o. daily,  
hydrochlorothiazide 50 mg p.o. daily,  
Lido patch, lisinopril 40 mg p.o.  
Benicar  
hydrochlorothiazide 50/12.5,  
Detrol LA 1 mg twice a day,  
Tramadol 50 mg p.o. t.i.d  
multivitamin.  

 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
3. Warfarin 1 mg Tablet Sig: Three (3) Tablet PO Once Daily at 4 
___.
Disp:*30 Tablet(s)* Refills:*0*
4. Simvastatin 80 mg Tablet Sig: One (1) Tablet PO once a day.  
5. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO once a day: 
Hols SBP < 100.  
8. Enoxaparin 60 mg/0.6 mL Syringe Sig: One (1) syringe 
Subcutaneous BID (2 times a day): Give until INR > 2.0, then 
d/c.  
9. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for fever, pain.  
10. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: 2.5 Tablet Sustained Release 24 hrs PO once a day: Hold HR 
< 55, SBP < 100.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary
NSTEMI
Systolic Congestive Heart Failure

Secondary
Mitral Regurgitation
s/p hip replacement ___

 
Discharge Condition:
Alert and oriented to person, place and time, mobilizes with 
assistance s/p hip replacement.

 
Discharge Instructions:
You were admitted to the hospital because you had a heart 
attack. You had a stent placed in one of your coronary blood 
vessels. You will need to continue taking aspirin and plavix for 
one month, lovenox for six months and coumadin indefinitely. 
You had a hip replacement. Please keep the wound covered. You 
will need physical therapy to recover from the hip replacement. 
.
Medication changes:
1. Stop taking Benicar
2. Stop taking Hydrochlorothiazide
3. Stop taking Tramadol
4. Decrease your Lisinopril to 20 mg daily
5. Change your Atenolol to Metoprolol XL 125mg daily
6. Start taking clopidogrel (Plavix) every day for at least one 
month. Do not stop taking Plavix or miss any doses unless Dr. 
___ you to. 
8. Start Aspirin 325 mg daily, do not stop taking or miss any 
doses unless Dr. ___ you to. 
9. Increase Simvastatin to 80 mg daily
10. Start Ranitidine to prevent stomach bleeding with the blood 
thinners. 
.
Please weigh yourself every day and call Dr. ___ your 
weight 
increases more than 3 pounds in 1 day or 6 pounds in 3 days. 
 
Followup Instructions:
___